US07141596B2
Step 2. Synthesis of trifluoro-methanesulfonic acid 4-(2-tert-butoxycarbonylamino-ethyl)-phenyl ester
[2-(4-Hydroxy-phenyl)-ethyl]-carbamic acid tert-butyl ester (15.9 g, 66.7 mmol) was dissolved in methylene chloride (130 mL) and then pyridine (8.12 mL) was added. The reaction was cooled to 0° C. Trifluoromethanesulfonic anhydride (20.8 g, 73.6 mmol) was dissolved in methylene chloride (70 mL) and added to the reaction mixture via addition funnel over 30 minutes. The reaction was allowed to warm to room temperature overnight. Water (150 mL) was added and the mixture shaken then separated. The aqueous phase was extracted with methylene chloride (100 mL) twice. The organic phases were combined and dried over MgSO4, filtered and evaporated. The mixture was chromatographed, eluting with 10–30% ethyl acetate in hexanes. Fractions containing the major component were combined, concentrated and place under high vacuum overnight to give a colorless oil (22.5 g, 91%), which gradually crystallized. 1H NMR (400 MHz, CDCl3): δ 7.27 (m, 2H), 7.20 (m, 2H), 4.55 (bs, 1H), 3.37 (m, 2H), 2.83 (t, J=7.0 Hz, 2H), 1.43 (s, 9H); LCMS found for C10H11F3NO5S (M+H—tBu)+: m/z=314.1.

reactant | [2-(4-Hydroxy-phenyl)-ethyl]-carbamic acid tert-butyl ester | 66.7 mmol, 15.9 g | C(C)(C)(C)OC(NCCC1=CC=C(C=C1)O)=O | C13H19NO3
reactant | pyridine | 8.12 mL | N1=CC=CC=C1 | C5H5N
reactant | Trifluoromethanesulfonic anhydride | 73.6 mmol, 20.8 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | Water | 150 mL | O | H2O
solvent | methylene chloride | 130 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 70 mL | C(Cl)Cl | CH2Cl2
product | trifluoro-methanesulfonic acid 4-(2-tert-butoxycarbonylamino-ethyl)-phenyl ester | 22.5 g, 91% | C(C)(C)(C)OC(=O)NCCC1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F | C14H18F3NO5S
